US04880838
Into a magnetically stirred suspension of 2,5-dimethyl-4-nitrophenol (12.70 grams, 75.98 mmol) in CH2Cl2 (150 milliliters) at room temperature was added portionwise N-bromosuccinimide (14.88 grams, 83.58 mmol). The mixture rapidly became homogeneous and after one hour thin layer chromatography (3:1 hexane:ethyl acetate) indicated complete consumption of the starting material and formation of a single major product. Saturated Na2SO3 solution (15 milliliters) was added and the solvent was removed under reduced pressure. Ethyl acetate was then added and the organic layer was washed with water and brine, dried over Na2SO4 and concentrated under reduced pressure to afford 2-bromo-3,6-dimethyl-4-nitrophenol (13.6 grams, 55.3 mmol, 73%) as a rust colored solid. H'-NMR (CDCl3) 9.26 (brS, 1H), 7.71 (S, 1H), 2.60 (S, 3H), 2.31 (S, 3H).

reactant | 2,5-dimethyl-4-nitrophenol | 75.98 mmol, 12.70 grams | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)O | C8H9NO3
reactant | N-bromosuccinimide | 83.58 mmol, 14.88 grams | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hexane | CCCCCC | C6H14
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 150 milliliters | C(Cl)Cl | CH2Cl2
product | 2-bromo-3,6-dimethyl-4-nitrophenol | 55.3 mmol, 13.6 grams, 73% | BrC1=C(C(=CC(=C1C)[N+](=O)[O-])C)O | C8H8BrNO3
